US07375104B2
b) 8-{2-[1,1-dimethyl-3-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)propylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
Prepared from 357 mg (1 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 232 mg (1 mmol) of 1-(3-amino-3-methylbutyl)-3,4-dihydroquinolin-2-one analogously to the method described for Example 5c). The final purification of the product is carried out by preparative HPLC (reverse phase, acetonitrile/water gradient with 0.1% trifluoroacetic acid). Yield: 94 mg (17%, trifluoroacetate); mass spectroscopy: [M]+=440.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 1-(3-amino-3-methylbutyl)-3,4-dihydroquinolin-2-one | 1 mmol, 232 mg | NC(CCN1C(CCC2=CC=CC=C12)=O)(C)C | C14H20N2O
product | 8-{2-[1,1-dimethyl-3-(2-oxo-3,4-dihydro-2H-quinolin-1-yl)propylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | CC(CCN1C(CCC2=CC=CC=C12)=O)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C24H29N3O5
